* R03D - EPE2019-guided gradual-duty takeover sensitivity
* PURPOSE: determine whether the P24 four-phase power stage survives takeover
* from a physically generated (imperfect) capacitor ladder for 20 periods.
*
* LOCKED POWER-STAGE VALUES
* P24-FIG3: one module, four phases, grounded low sides per P25 Fig. 1.
* P24-TABLE1: Vin=48 V, Vout target=1 V, Pmodule=250 W, fsw=5 MHz,
* duty printed 8.4% (Eq. 1 exact 1/12), Lphase=2.68 nH.
* CROSS-SOURCE:EPE2019-TABLE1: Cfly=53.8 uF, Cout=4.672 mF.
*
* STARTUP MODULE RETAINED FROM R02B
* IPEC2018-FIG2/FIG8: input-divider/diode passive precharge, generalized N=4.
* R02B-SENSITIVITY: Cdiv=1.076 mF and Tramp=100 us are the best tested point;
* they are not P24 reported values and are not claimed optimal.
* IPEC2018-TABLE2: Lpar=5 nH, Rpar=10 mOhm.
*
* MODULATION BOUNDARY
* OJPEL2024-EQ1/TEXT: for N=4, D<1/4 and adjacent main-switch ON intervals
* must not overlap to retain nominal switch stress. D=1/12 passes this gate.
* Conventional phase sequence 1->2->3->4 is used; star sequencing is not
* applicable/needed for N=4 at this duty.
*
* EXPLICIT LIMITATIONS
* Complementary low-side PWM after takeover is a diagnostic baseline, not the
* P24/P25 CCM-DCM boundary controller. No Coss, dead time, ZCD, negative-current
* target, ESR/ESL, device model, or closed-loop output control is inserted.
* No capacitor IC is used. Failure is admissible; no fitting is allowed.

.param VIN=48 VOUT=1 POUT=250 NP=4 FSW=5Meg T={1/FSW}
.param D={NP*VOUT/VIN} TON={D*T} LPHASE=2.68n
.param CFLY=53.8u COUT=4.672m RLOAD={VOUT*VOUT/POUT}
.param CDIV=1.076m TRAMP=100u TSTART=150u TSOFT=100u TSTOP=260u
.param LPAR=5n RPAR=10m RON=1u ROFF=1T VGATE=5 RLDAMP=1u

VSTEP src 0 PWL(0 0 {TRAMP} {VIN} {TSTOP} {VIN})
RPAR_IN src src_r {RPAR}
LPAR_IN src_r vin {LPAR}

* Passive divider and precharge diodes remain connected as in the IPEC method.
CIN1 vin tap3 {CDIV}
CIN2 tap3 tap2 {CDIV}
CIN3 tap2 tap1 {CDIV}
CIN4 tap1 0 {CDIV}
RLEAK1 vin tap3 1G
RLEAK2 tap3 tap2 1G
RLEAK3 tap2 tap1 1G
RLEAK4 tap1 0 1G
DPC1 tap3 a1 DPRE
DPC2 tap2 a2 DPRE
DPC3 tap1 a3 DPRE

* Before TSTART all low sides are ON to provide the precharge reference.
* After TSTART, high sides follow non-overlapping 1-2-3-4 interleaving and
* low sides are simply complementary for this takeover-only diagnostic.
BH1 gh1 0 V=if(time>=TSTART & mod(time-TSTART+T,T)<TON*limit((time-TSTART)/TSOFT,0,1),VGATE,0)
BL1 gl1 0 V=if(time<TSTART | mod(time-TSTART+T,T)>=TON*limit((time-TSTART)/TSOFT,0,1),VGATE,0)
BH2 gh2 0 V=if(time>=TSTART & mod(time-TSTART+T-T/4,T)<TON*limit((time-TSTART)/TSOFT,0,1),VGATE,0)
BL2 gl2 0 V=if(time<TSTART | mod(time-TSTART+T-T/4,T)>=TON*limit((time-TSTART)/TSOFT,0,1),VGATE,0)
BH3 gh3 0 V=if(time>=TSTART & mod(time-TSTART+T-T/2,T)<TON*limit((time-TSTART)/TSOFT,0,1),VGATE,0)
BL3 gl3 0 V=if(time<TSTART | mod(time-TSTART+T-T/2,T)>=TON*limit((time-TSTART)/TSOFT,0,1),VGATE,0)
BH4 gh4 0 V=if(time>=TSTART & mod(time-TSTART+T-3*T/4,T)<TON*limit((time-TSTART)/TSOFT,0,1),VGATE,0)
BL4 gl4 0 V=if(time<TSTART | mod(time-TSTART+T-3*T/4,T)>=TON*limit((time-TSTART)/TSOFT,0,1),VGATE,0)

SH1 vin a1 gh1 0 SWI
CF1 a1 x1 {CFLY}
SL1 x1 0 gl1 0 SWI
L1 x1 out {LPHASE} Rser={RLDAMP}
SH2 a1 a2 gh2 0 SWI
CF2 a2 x2 {CFLY}
SL2 x2 0 gl2 0 SWI
L2 x2 out {LPHASE} Rser={RLDAMP}
SH3 a2 a3 gh3 0 SWI
CF3 a3 x3 {CFLY}
SL3 x3 0 gl3 0 SWI
L3 x3 out {LPHASE} Rser={RLDAMP}
SH4 a3 x4 gh4 0 SWI
SL4 x4 0 gl4 0 SWI
L4 x4 out {LPHASE} Rser={RLDAMP}

CCO out 0 {COUT}
RLOAD_MAIN out 0 {RLOAD}
.model SWI SW(Ron={RON} Roff={ROFF} Vt=2.5 Vh=0)
.model DPRE D(Ron=1m Roff=1T Vfwd=0)

.meas tran VC1_PRE FIND V(a1,x1) AT {TSTART-1u}
.meas tran VC2_PRE FIND V(a2,x2) AT {TSTART-1u}
.meas tran VC3_PRE FIND V(a3,x3) AT {TSTART-1u}
.meas tran VC1_POST FIND V(a1,x1) AT {TSTOP-1n}
.meas tran VC2_POST FIND V(a2,x2) AT {TSTOP-1n}
.meas tran VC3_POST FIND V(a3,x3) AT {TSTOP-1n}
.meas tran VOUT_POST FIND V(out) AT {TSTOP-1n}
.meas tran VOUT_PK MAX V(out) FROM {TSTART} TO {TSTOP}
.meas tran VOUT_MIN_LAST MIN V(out) FROM {TSTOP-2u} TO {TSTOP}
.meas tran VOUT_MAX_LAST MAX V(out) FROM {TSTOP-2u} TO {TSTOP}
.meas tran IIN_PK MAX -I(VSTEP) FROM {TSTART} TO {TSTOP}
.meas tran IL1_MIN MIN I(L1) FROM {TSTART} TO {TSTOP}
.meas tran IL1_MAX MAX I(L1) FROM {TSTART} TO {TSTOP}
.meas tran IL2_MIN MIN I(L2) FROM {TSTART} TO {TSTOP}
.meas tran IL2_MAX MAX I(L2) FROM {TSTART} TO {TSTOP}
.meas tran IL3_MIN MIN I(L3) FROM {TSTART} TO {TSTOP}
.meas tran IL3_MAX MAX I(L3) FROM {TSTART} TO {TSTOP}
.meas tran IL4_MIN MIN I(L4) FROM {TSTART} TO {TSTOP}
.meas tran IL4_MAX MAX I(L4) FROM {TSTART} TO {TSTOP}

.options reltol=1e-5 abstol=1e-9 chgtol=1e-16
.save V(vin) V(out) V(a1,x1) V(a2,x2) V(a3,x3) V(gh1) V(gh2) V(gh3) V(gh4) I(VSTEP) I(L1) I(L2) I(L3) I(L4)
.tran 0 {TSTOP} 0 .5n UIC
.end

